US07465815B2
3-(Biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine
Using N-benzyl-3-(biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 279, the title compound was synthesized in the same manner as in Reference Example 30. Yield 89%. Melting point: 149-150° C. (hexane).

reactant | N-benzyl-3-(biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(CO2)C2=CC=C(C=C2)C2=CC=CC=C2)C1C)C)C | C30H29NO
solvent | hexane | CCCCCC | C6H14
product | 3-(Biphenyl-4-yl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | Yield 89% | C1(=CC=C(C=C1)C1COC2=C1C(=C(C(=C2C)C)N)C)C2=CC=CC=C2 | C23H23NO
